US07547691B2
(B). Preparation of 4-(3-azido-propyl)-piperazine-1-carboxylic acid tert-butyl ester
Sodium azide (2.24 g, 34.2 mmol) is added to a stirred solution of 4-(3-bromo-propyl)-piperazine-1-carboxylic acid tert-butyl ester (4.80 g, 15.6 mmol) in anhydrous DMF (DMF) (40 mL). The resultant mixture is heated in an oil bath at 55° C. under nitrogen for 3 days. At ambient temperature, ethyl acetate (160 mL) and half-saturated aqueous sodium chloride (NaCl) (200 mL) are added to the mixture. The organic layer is separated, washed with half-saturated aqueous NaCl (200 mL), dried over magnesium sulfate, filtered, and concentrated to provide the title compound as a dark oil (3.88 g, 92% yield).

reactant | Sodium azide | 34.2 mmol, 2.24 g | [N-]=[N+]=[N-].[Na+]
reactant | 4-(3-bromo-propyl)-piperazine-1-carboxylic acid tert-butyl ester | 15.6 mmol, 4.80 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCBr | C12H23BrN2O2
reactant | ethyl acetate | 160 mL | C(C)(=O)OCC | C4H8O2
reactant | sodium chloride | 200 mL | [Cl-].[Na+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-(3-azido-propyl)-piperazine-1-carboxylic acid tert-butyl ester | 3.88 g, 92% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCN=[N+]=[N-] | C12H23N5O2
